US07544697B2
1-Ethyl-5-methyl-1H-pyrazole-3-carboxamide (10.2 g, 66.7 mmol) was treated with phosphorus oxychloride (41 mL) according to the method described in Part C of Example 8. The crude product was purified by chromatography on a HORIZON HPFC system (silica gel, gradient elution with 1-21% ethyl acetate/hexanes followed by 2-25% CMA in chloroform). The appropriate fractions were combined and concentrated under reduced pressure to yield 8.17 g of 1-ethyl-5-methyl-1H-pyrazole-3-carbonitrile as clear colorless crystals.

reactant | 1-Ethyl-5-methyl-1H-pyrazole-3-carboxamide | 66.7 mmol, 10.2 g | C(C)N1N=C(C=C1C)C(=O)N | C7H11N3O
reactant | phosphorus oxychloride | 41 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 1-ethyl-5-methyl-1H-pyrazole-3-carbonitrile | 8.17 g | C(C)N1N=C(C=C1C)C#N | C7H9N3
